US07977387B2
2-Methyl-5-nitro-thiobenzoic acid S-pyridin-2-yl ester (Compound 491)
2-Methyl-5-nitrobenzoic acid (22.5 g, 124 mmol), 2,2′-dithiopyridine (27.5 g, 124 mmol) and triphenylphosphine (32.6 g, 124 mmol) were dissolved in CH3CN (650 mL). The solution was stirred at room temperature for 18 h. The reaction mixture was filtered and the solid was washed with small amounts of CH3CN. This afforded the title compound as a colourless solid.

reactant | 2-Methyl-5-nitrobenzoic acid | 124 mmol, 22.5 g | CC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C8H7NO4
reactant | 2,2′-dithiopyridine | 124 mmol, 27.5 g | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
reactant | triphenylphosphine | 124 mmol, 32.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH3CN | 650 mL | CC#N | C2H3N
product | 2-Methyl-5-nitro-thiobenzoic acid S-pyridin-2-yl ester | N1=C(C=CC=C1)SC(C1=C(C=CC(=C1)[N+](=O)[O-])C)=O | C13H10N2O3S
